Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
oxycodone
 
Attending: ___
 
Chief Complaint:
cervical stenosis
 
Major Surgical or Invasive Procedure:
___: C3-C6 Laminectomies and Fusion
 
History of Present Illness:
___ female known cervical spondylosis and progressive 
disease.  Over the last year, she had a couple of falls. Most 
recent MRI shows multilevel
cervical spondylosis with myelopathy more impressive between
C3-C4 and C4-C5; It is less at C5-C6 and minimal at C6-C7. 
There is evidence of myelomalacia posterior at C3, which is not
around the area of the stenosis, but there is new evidence of
myelomalacia posterior to C4.  She has developed worsening neck 
and right arm pain and she has failed physical therapy as well 
as
medical management.  Every time she bends her head forward,
she gets extreme numbness and tingling.  She has to keep her 
head
straight.

Flexion and extension x-rays show borderline spondylolisthesis 
at C3-C4, but significant angulation at C4-C5 indicating 
instability at that level.  The patient will definitely benefit 
from posterior cervical laminectomies and fusion.
 
Past Medical History:
neck pain
hypertension
schizoaffective
hyperparathyroidism
cervical stenosis
chronic renal failure
back pain

 
Social History:
___
Family History:
n/c
 
Physical Exam:
On discharge:
Exam:

Opens eyes: [X]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right5---------5------5--------5------5
Left5---------5------5--------5------5

IPQuadHamATEHLGast
Right5---------5------5--------5------5--------5
Left5---------5------5--------5------5--------5

[x]Clonus 3 beats on right, 2 on L ___ present
bilaterally, less noticeable than before 
[x]Sensation intact to light touch
[x]Propioception intact

Wound: 
          [x]C/D/I staples well approximated no erythema or
drainage
          [x]Hard collar in place           

 
Pertinent Results:
please see OMR
 
Brief Hospital Course:
Patient presented to the pre-op area, was evaluated by 
anesthesia and taken to the OR for elective C3-C6 laminotomies 
and fusion on ___. A cervical drain was placed in surgery. 
She was placed in a hard collar to be worn at all times. Patient 
tolerated the procedure well. Please refer to formal op report 
in ___ for further surgical/intra-operative details. Patient was 
successfully extubated in OR and transferred to the PACU for 
post op care. She remained stable and was then transferred to 
the floor.

She was seen and evaluated by ___ who felt that she could safely 
return home.  Hemovac was removed on POD2 when output tapered 
down.

At the time of discharge she was tolerating a regular diet, 
ambulating with a cane, afebrile with stable vital signs.

 
Medications on Admission:
Olanzapine 7.5mg QHS, Vit D, Folic Acid, Cyanocobalamin
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Bisacodyl 10 mg PO/PR DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  Senna 8.6 mg PO BID  
5.  OLANZapine 7.5 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cervical spondylosis/stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Surgery
•Your dressing may come off on the second day after surgery and 
your incision can be open to air. 
•Your incision is closed with staples. You will need staple 
removal. 
•Do not apply any lotions or creams to the site. 
•Please keep your incision dry until removal of your staples.
•Please avoid swimming for two weeks after staple removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•You must wear your collar at all times.
•You must wear your collar while showering.
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___